US04093617
5,7-Dimethyl 3-iodo pyrazolo[1,5-a]pyrimidine
A solution of ICl [5.0g (27 mmoles)] in CHCl3 (50 ml) was added to a stirred solution of 5,7-dimethyl pyrazolo[1,5-a]pyrimidine [2.96g (20 mmoles)] in CHCl3 (50 ml). Within a few minutes, the mixture became warm and crystals of the hydrochloride salt of the subject compound began to separate. The mixture was warmed on the steam bath for 2-3 minutes to complete the reaction, and then refrigerated overnight. The yellow hydrochloride salt was separated by filtration, washed with Et2O, and air dried. The yellow solid, which weighed 4.4g, was dissolved in water (100 ml) and this solution was made alkaline by the addition of NaOH solution (2.5N). The alkaline solution was extracted with CHCl3 3(25 ml), and the CHCl3 extracts were dried over Na2SO4. The CHCl3 extract was chromatographed on basic alumina, and the CHCl3 eluant evaporated to dryness. The residue was recrystallized from petroleum ether (30°-60°) to afford 2.02g (37%) of analytically pure product; mp 120°-2°.

reactant | ICl | 27 mmoles, 5.0g | ICl | ClI
reactant | 5,7-dimethyl pyrazolo[1,5-a]pyrimidine | 20 mmoles, 2.96g | CC1=NC=2N(C(=C1)C)N=CC2 | C8H9N3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,7-Dimethyl 3-iodo pyrazolo[1,5-a]pyrimidine | CC1=NC=2N(C(=C1)C)N=CC2I | C8H8IN3
